*PART NUMBER: BAT54S
*SCHOTTKY DIODE

.SUBCKT BAT54S 1 2 3
* The resistors do not reflect 
* physical devices.  Instead they
* improve modeling in the reverse 
* mode of operation.
*
* R1, R4 do not reflect the physical device
* but prevent SPICE errors in some circuits
*
R1 1 4 {R1}
R2 1 3 {R2}
D1 4 3 BAT54S
R3 3 2 {R3}
D2 3 5 BAT54S 
R4 5 2 {R4}

*
.MODEL BAT54S D( 
+    IS = 2.117E-07 
+    N = 1.016 
+    BV = 36 
+    IBV = 1.196E-06 
+    RS = 2.637 
+    CJO = 1.114E-11 
+    VJ = 0.2013 
+    M = 0.3868 
+    FC = 0 
+    TT = 0 
+    EG = 0.69 
+    XTI = 2) 

.PARAM
+ R1   = 30.0E-03
+ R2   = 3.6E+07
+ R3   = 3.6E+07
+ R4   = 5.0E-03

.ends BAT54S
*
