*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM21AG601SN1
* Property : Z@100MHz = 600[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM21AG601SN1 port1 port2
R1 port1 1 205.2
L1 port1 1 3.444e-6
C2 1 2 1.610e-10
R2 2 3 457.0
L2 1 3 8.455e-7
C1 port1 3 1.175e-12
R3 3 4 25.93
L3 3 4 1.285e-7
R4 4 port2 1.700e-1
.ENDS BLM21AG601SN1
*----------------------------------------------------------------------
