*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM21PG221SN1
* Property : Z@100MHz = 220[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM21PG221SN1 port1 port2
R1 port1 1 84.82
L1 port1 1 1.171e-6
C1 port1 2 1.152e-12
R2 1 2 178.9
L2 1 2 3.257e-7
R3 2 3 22.62
L3 2 3 2.788e-9
R4 3 port2 3.000e-2
.ENDS BLM21PG221SN1
*----------------------------------------------------------------------
