* PSpice Model
*$
*PART NUMBER:1X12 Connector
*1X12 Connector Header
*Version:1
********************************************
* PSpice Model
*$
*PART NUMBER:TEST_POINT
*Circuit Test Point
*Version:1
********************************************
.SUBCKT CONN_1X12 1 2 3 4 5 6 7 8 9 10 11 12
X1   1  2    conn_1x12_endpin
X2   2  1  3 conn_1x12_pin
X3   3  2  4 conn_1x12_pin
X4   4  3  5 conn_1x12_pin
X5   5  4  6 conn_1x12_pin
X6   6  5  7 conn_1x12_pin
X7   7  6  8 conn_1x12_pin
X8   8  7  9 conn_1x12_pin
X9   9  8 10 conn_1x12_pin
X10 10  9 11 conn_1x12_pin
X11 11 10 12 conn_1x12_pin
X12 12 11    conn_1x12_endpin
.ENDS CONN_1x12

.subckt conn_1x12_pin 1 2 3
R1 1 2 1G
C1 1 2 0.1P
R2 1 3 1G
C2 1 3 0.1P
.ends conn_1x12_pin

.subckt conn_1x12_endpin 1 2
R1 1 2 1G
C1 1 2 0.1P
.ends conn_1x12_endpin
*$