* PSpice Model
*$
*PART NUMBER:1X5 Connector
*1X5 Connector Header
*Version:1
********************************************
* PSpice Model
*$
*PART NUMBER:TEST_POINT
*Circuit Test Point
*Version:1
********************************************
.SUBCKT CONN_1X5 1 2 3 4 5
X1   1  2    conn_1x5_endpin
X2   2  1  3 conn_1x5_pin
X3   3  2  4 conn_1x5_pin
X4   4  3  5 conn_1x5_pin
X5   5  4    conn_1x5_endpin
.ENDS CONN_1x5

.subckt conn_1x5_pin 1 2 3
R1 1 2 1G
C1 1 2 0.1P
R2 1 3 1G
C2 1 3 0.1P
.ends conn_1x5_pin

.subckt conn_1x5_endpin 1 2
R1 1 2 1G
C1 1 2 0.1P
.ends conn_1x5_endpin
*$