* PSpice Model
*$
*PART NUMBER:TEST_POINT
*Circuit Test Point
*Version:1
********************************************
.SUBCKT CONN_1X6 1 2 3 4 5 6
X1  1  2    conn_1x6_endpin
X2  2  1  3 conn_1x6_pin
X3  3  2  4 conn_1x6_pin
X4  4  3  5 conn_1x6_pin
X5  5  4  6 conn_1x6_pin
X6  6  5    conn_1x6_endpin
.ENDS CONN_2x13

.subckt conn_1x6_pin 1 2 3
R1 1 2 1G
C1 1 2 0.1P
R2 1 3 1G
C2 1 3 0.1P
.ends conn_1x6_pin

.subckt conn_1x6_endpin 1 2
R1 1 2 1G
C1 1 2 0.1P
.ends conn_1x6_endpin
*$