* PSpice Model
*$
*PART NUMBER:1X5 Connector
*1X5 Connector Header
*Version:1
********************************************
.SUBCKT CONN_1x5 1 2 3 4 5
X1   1  2    conn_1x5_endpin
X2   2  1  3 conn_1x5_pin
X3   3  2  4 conn_1x5_pin
X4   4  3  5 conn_1x5_pin
X5   5  4    conn_1x5_endpin
.ENDS CONN_1x5

* PSpice Model
*$
*PART NUMBER:1X12 Connector
*1X6 Connector Header
*Version:1
********************************************
.SUBCKT CONN_1x6 1 2 3 4 5 6
X1  1  2    conn_1x6_endpin
X2  2  1  3 conn_1x6_pin
X3  3  2  4 conn_1x6_pin
X4  4  3  5 conn_1x6_pin
X5  5  4  6 conn_1x6_pin
X6  6  5    conn_1x6_endpin
.ENDS CONN_1x6

* PSpice Model
*$
*PART NUMBER:1X12 Connector
*1X12 Connector Header
*Version:1
********************************************
.SUBCKT CONN_1x12 1 2 3 4 5 6 7 8 9 10 11 12
X1   1  2    conn_1x12_endpin
X2   2  1  3 conn_1x12_pin
X3   3  2  4 conn_1x12_pin
X4   4  3  5 conn_1x12_pin
X5   5  4  6 conn_1x12_pin
X6   6  5  7 conn_1x12_pin
X7   7  6  8 conn_1x12_pin
X8   8  7  9 conn_1x12_pin
X9   9  8 10 conn_1x12_pin
X10 10  9 11 conn_1x12_pin
X11 11 10 12 conn_1x12_pin
X12 12 11    conn_1x12_endpin
.ENDS CONN_1x12

* 1XN Connector Input Pin Parasitics
*
*   o o o 3 1 2 o o o
*
* Connections
*	1 = Pin 1   2 = Pin 2   3 = Pin 3
.subckt conn_1xN_pin 1 2 3
R1 1 2 1G
C1 1 2 0.1P
R2 1 3 1G
C2 1 3 0.1P
.ends conn_1xN_pin

* 2XN Connector Input End Pin Parasitics
*
*   o o o o o o o 2 1
*
* Connections
*	1 = Pin 1   2 = Pin 2
.subckt conn_1xN_endpin 1 2
R1 1 2 1G
C1 1 2 0.1P
.ends conn_1xN_endpin
*$