* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.

* 1 = B1    2 = E2    3 = B2    4 = C2    5 = E1    6 = C1
.SUBCKT DMB2227A 1 2 3 4 5 6

Q2222A 6 1 5 DI_DMB2227A_NPN
Q2907A 4 3 2 DI_DMB2227A_PNP

*SRC=DMB2227A;DI_DMB2227A_NPN;BJTs NPN; Si;  40.0V  0.600A  410MHz    -
.MODEL DI_DMB2227A_NPN  NPN (IS=9.69f NF=1.00 BF=272 VAF=114
+ IKF=0.493 ISE=11.7f NE=2.00 BR=4.00 NR=1.00
+ VAR=24.0 IKR=0.750 RE=0.253 RB=1.01 RC=0.101
+ XTB=1.5 CJE=29.0p VJE=1.10 MJE=0.500 CJC=14.7p VJC=0.300
+ MJC=0.300 TF=362p TR=60.3n EG=1.12 )


*SRC=DMB2227A;DI_DMB2227A_PNP;BJTs PNP; Si;  60.0V  0.600A  360MHz    -
.MODEL DI_DMB2227A_PNP  NPN (IS=6.60f NF=1.00 BF=151 VAF=139
+ IKF=0.394 ISE=17.3f NE=2.00 BR=4.00 NR=1.00
+ VAR=20.0 IKR=0.600 RE=0.434 RB=1.74 RC=0.174
+ XTB=1.5 CJE=31.0p VJE=1.10 MJE=0.500 CJC=14.8p VJC=0.300
+ MJC=0.300 TF=416p TR=71.8n EG=1.12 )

.ENDS DMB2227A
