* DS1882 SPICE Macro-model
* Generic Desc: Dual Log Audio Digital Potentiometer
* Revision History: 1.0 (10/2024)
*
* Begin Notes:
* The model provides an static approximation of analog input impedances and power  
* consumption for nominal applications, along with digital potentiometer behavior.
*
* Not Modeled:
* Transient characteristics or digital/clocking characteristics
*
* Parameters modeled include:
*	Analog Input Impedance
*	VCC, VDD, and VEE Current
*   Digital IO Leakage Current
*
* Connections
*	1  = GND	9   = L1
*	2  = A2     10  = H1
*	3  = A1		11  = W1
*	4  = VEE    12  = ENABLE_L
*	5  = A0     13  = SDA
*	6  = W0     14  = SCL
*	7  = L0     15  = VCC
*	8  = H0     16  = VDD

.SUBCKT DS1882 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16

.PARAM
+   VDD_GAIN        = { 0.000001 }
+   VCC_GAIN        = { 0.0000014285714285714 }
+   VEE_GAIN        = { -VCC_GAIN }
+   V_LOGIC_L       = { 0.15 * V(16) }
+   V_LOGIC_H       = { 0.80 * V(16) }
+   V_LOGIC_MID     = { V(16) - (V(16) / 2) }
+   IO_PIN_LEAKAGE  = { 1E-06 }
+   IO_LEAKAGE_R    = { V(16) / IO_PIN_LEAKAGE }
+   IO_PIN_GAIN     = { 4E-06 }
+   IO_PIN_CAP      = { 10E-12 }
+   R_WIPER         = { 220 }
+   R_END_TO_END    = { 45E03 }
+   W0_POSITION     = { 0.5 }
+   W1_POSITION     = { 0.5 }

GVDD 16 1 VALUE = { IF((V(12)>=(V(16)*0.8)), (V(16) * VDD_GAIN) , IO_PIN_LEAKAGE) }
GVCC 15 1 VALUE = { IF((V(12)>=(V(16)*0.8)), (V(15) * VCC_GAIN) , IO_PIN_LEAKAGE) }
GVEE  4 1 VALUE = { IF((V(12)>=(V(16)*0.8)), (V(4) * VEE_GAIN) , IO_PIN_LEAKAGE) }

GSDA 13 1 VALUE = { 
+   IF(((V(12)>=(V(16)*0.8)) & (V(13) > V_LOGIC_L)), 
+   ((V_LOGIC_MID - (V(16) - V(13))) * VDD_GAIN), 
+   (V(13) / 5) * VDD_GAIN)
+   }
CSDA 13 1 { IO_PIN_CAP }
GSCL 14 1 VALUE = {
+   IF(((V(12)>=(V(16)*0.8)) & (V(14) > V_LOGIC_L)), 
+   ((V_LOGIC_MID - (V(16) - V(14))) * VDD_GAIN), 
+   (V(14) / 5) * VDD_GAIN)
+   }
CSCL 14 1 { IO_PIN_CAP }

RA0   5 19 { IO_LEAKAGE_R }
CA0   5 19 { IO_PIN_CAP }
RGA0 19  1 { 1 }
RA1   3 20 { IO_LEAKAGE_R }
CA1   3 20 { IO_PIN_CAP }
RGA1 20  1 { 1 }
RA2   2 21 { IO_LEAKAGE_R }
CA2   2 21 { IO_PIN_CAP }
RGA2 21  1 { 1 }

RCE  12 22 { IO_LEAKAGE_R }
CCE  12 22 { IO_PIN_CAP }
RGCE 22  1 { 1 }

RW0 6 17 { R_WIPER }
RL0 7 17 { R_WIPER * W0_POSITION }
RH0 8 17 { (1 - R_WIPER) * W0_POSITION }
RFLOAT0 17 0 { 1E15 }

RW1  9 18 { R_WIPER }
RL1 10 18 { R_WIPER * W0_POSITION }
RH1 11 18 { (1 - R_WIPER) * W1_POSITION }
RFLOAT1 18 0 { 1E15 }

.ENDS DS1882
