***************************** Mfr: MURATA *****************************
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM15BB221SN1
* Property : Z@100MHz = 220[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM15BB221SN1 port1 port2
R1 port1 1 555.8
C2 1 2 2.281e-12
L1 port1 2 2.408e-7
R2 2 3 247.3
L2 2 3 4.342e-8
C1 port1 3 6.095e-13
R3 3 4 1.183
L3 3 4 2.133e-8
R4 4 port2 4.600e-1
.ENDS BLM15BB221SN1
*----------------------------------------------------------------------

*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM21AG601SN1
* Property : Z@100MHz = 600[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM21AG601SN1 port1 port2
R1 port1 1 205.2
L1 port1 1 3.444e-6
C2 1 2 1.610e-10
R2 2 3 457.0
L2 1 3 8.455e-7
C1 port1 3 1.175e-12
R3 3 4 25.93
L3 3 4 1.285e-7
R4 4 port2 1.700e-1
.ENDS BLM21AG601SN1
*----------------------------------------------------------------------

*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM21PG221SN1
* Property : Z@100MHz = 220[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM21PG221SN1 port1 port2
R1 port1 1 84.82
L1 port1 1 1.171e-6
C1 port1 2 1.152e-12
R2 1 2 178.9
L2 1 2 3.257e-7
R3 2 3 22.62
L3 2 3 2.788e-9
R4 3 port2 3.000e-2
.ENDS BLM21PG221SN1
*----------------------------------------------------------------------
