* 1 = V+	3 = IN-		5 = Latch	7 = Q
* 2 = IN+	4 = V-		6 = GND		8 = Q_Inv
.subckt LT1016 1 2 3 4 5 6 7 8
XOP 2 3 7 1 4

R1 6 0 1E-06
R2 5 0 1E06
R3 8 0 1E06
*A3 5 6 0 0 0 0 N016 0 SCHMITT Vt=1.5 Vh=0 tau=3n
* X3 5 6 N016 0 SCHMITT
* B1 0 VD0 I=10u*dnlim(uplim(V(2),V(1)-1.4,.1), V(4)+1.15,.1)+1n*V(2)
* B2 VD0 0 I=10u*dnlim(uplim(V(3),V(1)-1.39,.1), V(4)+1.14, .1)+1n*V(3)
* C1 VD0 0 .01f Rpar=100K noiseless
* A1 0 VD0 0 0 0 0 N006 0 OTA g=11m iout=75u Vlow=-1e308 Vhigh=1e308 Cout=1f
* C5 1 7 .1p
* C6 7 6 .1p
* G5 0 N002 N006 0 68n
* D5 0 N006 DLAT
* G2 0 N011 0 N006 68n
* A2 N009 0 N016 0 0 0 N006 0 OTA g=500u linear Vlow=-1e308 Vhigh=1e308
* D1 0 N009 DLAT
* C3 N009 0 1f
* G3 0 N009 0 N006 500µ
* C4 3 4 1.75p
* C10 2 4 1.75p
* D13 1 4 DP1
* D14 1 6 DP2
* D3 N002 1 XU
* D4 6 N002 XD
* M1 1 N003 7 7 N temp=27
* M2 6 N007 7 7 P temp=27
* D15 N003 6 DVLU1
* R6 N003 N002 4G
* D16 N003 6 DVLU2
* R7 N007 N002 4G
* D17 6 N007 DVLD
* C2 N002 0 .04f
* C7 1 8 .1p
* C8 8 6 .1p
* D7 N011 1 XU
* D8 6 N011 XD
* M3 1 N012 8 8 N temp=27
* M4 6 N014 8 8 P temp=27
* D18 N012 6 DVLU1
* R8 N012 N011 4G
* D19 N012 6 DVLU2
* R9 N014 N011 4G
* D20 6 N014 DVLD
* C9 N011 0 .04f
* C11 1 3 1.75p
* C12 1 2 1.75p
* D2 3 2 DBIASC
* D6 2 4 DBIAS
* D9 3 4 DBIAS
* D10 1 5 DLATCH
* .model DBIAS D(Ron=1k Roff=10G Vfwd=1 epsilon=.1 ilimit=2.5u)
* .model DBIASC D(Ron=1 Roff=10G Vfwd= 1u Vrev=1u
* + epsilon=200u revepsilon=200u ilimit=2.5u revilimit=2.5u)
* .model DLATCH  D(Ron=1k Roff=10Meg Vfwd=1 epsilon=.1 ilimit=500u)
* .model DP1  D(Ron=100 Roff=1Meg Vfwd=1 ilimit=3m)
* .model DP2  D(Ron=100 Roff=1Meg Vfwd=1 ilimit=17.7m)
* .model XU D(Ron=1k Roff=1.7G Vfwd=6.8 epsilon=.1)
* .model XD D(Ron=1k Roff=637Meg Vfwd=9 epsilon=.1)
* .model DVLU1 D(Ron=1.5G Roff=100G Vfwd=1.1 epsilon=2.5)
* .model DVLU2 D(Ron= 5Meg Roff=100G Vfwd=3.5 epsilon=.1)
* .model DVLD D(Ron= 5Meg Roff=100G Vfwd=-150m epsilon=.1)
* .model DLAT D(Ron=1 Roff=10k Vfwd=500m Vrev=500m epsilon=5m revepsilon=5m)
* .model N VDMOS(Vto= -300m kp=230m rds=2k)
* .model P VDMOS(Vto= 400m Kp=25m rds=2k pchan )
.ends LT1016

*	1 = IN+   2 = IN-   3 = OUTPUT   4 = GND
.subckt LT1016_SCHMITT 1 2 3 4

.ends LT1016_SCHMITT

*	1 = IN+   2 = IN-   3 = OUTPUT	4 = V+	5 = V-
.subckt LT1016_OPAMP 1 2 3 4 5

.param
+   Vmax  = { V(4) - 1.50 }
+   Vmin  = { V(5) + 1.25 }

* input DC offset, IOS is IOS/2
Ibp  2  5 DC 5E-06
Ibn 10  5 DC 5E-06
Ios  2 10 DC 300E-09
Vos 10  1 DC 1E-03

* finite CMRR limitation
Eerror 1 9 1 5 15.8489E-06

* 1st stage amp
Ginput 7 N1 TABLE{ V(9, 2) } = (-0.1, -22E-06) (0.1, 22E-06)
R1 7 N1 { 1.51E06 }

* 2nd stage amp and compensation network
Emid 8 N1 VALUE = { 
+	IF((V(7) * -3000) <= Vmin, Vmin, 
+	IF((V(7) * -3000) >= Vmax, Vmax,
+	(V(7) * -3000))) }
C1 7 8 { 3E-12 }

* output stage
Evg N1 5 VALUE = { ((V(4) - V(5)) / 2) }
Eout 3 N1 8 N1 1

.ends LT1016_OPAMP