* PSpice Model
*$
*PART NUMBER:MOUNTING_HOLE
*Chassis Mounting Hole
*Version:1
********************************************
.SUBCKT MOUNTING_HOLE_GND 1

R1 1 0 20.0E-03

.ENDS MOUNTING_HOLE_GND

.SUBCKT MOUNTING_HOLE_FLOAT 1

R1 1 2 20.0E-03
C1 2 0 1.0E-12

.ENDS MOUNTING_HOLE_FLOAT
